Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Tylenol Overdose
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with history of hepatitis C (unclear chronicity) and asthma
who presents from ___ with non-intentional 
APAP
overdose. She reports that her wisdom teeth started erupting one
month ago, and she has had progressively worsening L-sided tooth
pain since. Denies frank purulence or fevers. She was unable to
see a dentist because of lack of health insurance so was taking 
a
panoply of medications, including ibuprofen, a ___ pain
medicine, topical Orajel, and acetaminophen. Since ___, she has
been taking ___ pills of extra strength Tylenol (___) every
hour (~40g/day). She last took 8 pills (4g total) on ___ at
1330. Three days ago, she developed abdominal pain, nausea, and
vomiting. On ___, she presented to OSH, where her Tylenol
level was 36 ___ at 2257). Her other labs were notable for WBC
15.1, Cr 1.05, ALT 1667, AST 1321, ALP 161, Tbili 0.89, UDS
negative. She received 3 doses of NAC and was transferred to
___.

In the ED, initial vitals were:
T98.9, HR 80, BP 128/86, SpO2 99% on RA

Exam notable for:
Gen: No jaundice, +mildly erythematous face in splotchy
distribution, young woman in NAD
HEENT: Anicteric sclera, no sublingual jaundice, +L mandible
molar erythema/cracked teeth
Lungs: CTAB
Heart: RRR, no m/r/g
Abd: +Hypoactive BS, S, ND, +moderate TTP RLQ/RUQ/Epigastric w/o
rebound or guarding. 

Initial labs were notable for:
WBC 16.5, Hgb 14.5, platelets 335
Bicarb 13, Cr 0.7
AST 619, ALT 1208, ALP 120, Tbili 0.8
INR 1.6
Lactate 0.7
VBG ___
Serum acetaminophen negative

Consults:
Toxicology was consulted with recommendation to continue NAC per
the 21-hour protocol (okay to d/c if LFTs stable or downtrending
or INR <2) and avoid APAP ingestion for the next ___ weeks.

OMFS was consulted. Did not see an abscess on exam so deferred
Panorex. Recommended peridex and transitioning IV to PO abx with
outpatient dental follow-up and tooth extraction as needed.

Patient received:
- IV acetylcysteine per NAC protocol; finished last dose on ___
at 1500
- IV unasyn 3g q6h
- IV ketorolac 15mg x2
- PO viscous lidocaine
- PO tramadol 50mg
- PO phos 500mg
- mIVF with LR

Repeat labs at 1330 (prior to completing NAC protocol):
WBC 8.8
AST 402, ALT 919, ALP 99, Tbili 0.7
INR 1.5

Vitals on transfer:
HR 73, BP 104/67, SpO2 99% on RA

Upon arrival to the floor, patient reports improved tooth pain
since starting antibiotics. Denies fevers, abdominal pain, N/V.
Says she has been able to tolerate PO's. Reports that she has 
had
a non-pruritic, non-painful rash on her face that she first
noticed on presentation to OSH.
 
Past Medical History:
Hepatitis C infection (unclear chronicity)
Asthma
 
Social History:
___
Family History:
Sister has HCV. No other known family h/o liver disease.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: 24 HR Data (last updated ___ @ 1803)
    Temp: 98.3 (Tm 98.3), BP: 112/72, HR: 74, RR: 18, O2 sat:
97%, O2 delivery: Ra
GENERAL: Alert and interactive, sitting up in bed, in NAD
HEENT: Non-coalescing, morbilliform erythematous rash over face,
not extending beyond the upper neck; poor dentition with 
yellowed
L-sided back molar without purulence, fillings in top L teeth,
diffuse caries
CARDIAC: S1, S2, RRR, no m/r/g
LUNGS: LCTAB 
ABDOMEN: Soft, ND, mildly TTP in the LLQ, no hepatomegaly
EXTREMITIES: No ___ edema 
SKIN: Tattoos on back, non-jaundiced
NEUROLOGIC: AOx3, no asterixis

DISCHARGE PHYSICAL EXAM
=======================
GENERAL: WDWN adult woman sitting in bed in NAD, no jaundice
HEENT: Blanching morbilliform erythematous rash over face
CARDIAC: RRR, normal S1/S2, no m/r/g
LUNGS: CTAB, no increased work of breathing
ABDOMEN: Soft, mild RUQ tenderness, non-distended, normoactive 
BS, no hepatomegaly or splenomegaly
EXTREMITIES: Warm, DP pulses 2+ bilaterally, no edema
NEUROLOGIC: AOx3, CNII-XII intact, strength ___ in upper and 
lower extremities bilaterally, normal sensation, no dysmetria, 
no asterixis
 
Pertinent Results:
ADMISSION LABS
==============
___ 01:45AM BLOOD WBC-16.5* RBC-4.78 Hgb-14.5 Hct-43.6 
MCV-91 MCH-30.3 MCHC-33.3 RDW-12.0 RDWSD-39.9 Plt ___
___ 01:45AM BLOOD Neuts-74.5* Lymphs-18.5* Monos-5.8 
Eos-0.1* Baso-0.4 Im ___ AbsNeut-12.32* AbsLymp-3.05 
AbsMono-0.95* AbsEos-0.02* AbsBaso-0.07
___ 01:45AM BLOOD ___ PTT-35.8 ___
___ 01:45AM BLOOD Plt ___
___ 01:45AM BLOOD Glucose-86 UreaN-10 Creat-0.7 Na-135 
K-4.1 Cl-104 HCO3-13* AnGap-17
___ 01:45AM BLOOD ALT-1208* AST-619* AlkPhos-120* 
TotBili-0.8
___ 01:45AM BLOOD Albumin-4.7 Calcium-9.7 Phos-3.0 Mg-1.7
___ 01:30PM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG HAV Ab-NEG
___ 01:45AM BLOOD Acetmnp-NEG
___ 01:30PM BLOOD HCV Ab-POS*
___ 04:44AM BLOOD ___ pO2-83* pCO2-33* pH-7.34* 
calTCO2-19* Base XS--6
___ 01:42AM BLOOD Lactate-0.7

DISCHARGE LABS
===============
___ 06:41AM BLOOD WBC-7.8 RBC-3.98 Hgb-12.3 Hct-36.2 MCV-91 
MCH-30.9 MCHC-34.0 RDW-12.5 RDWSD-41.1 Plt ___
___ 01:00PM BLOOD ___ PTT-33.5 ___
___ 06:41AM BLOOD Plt ___
___ 06:41AM BLOOD Glucose-83 UreaN-9 Creat-0.8 Na-144 K-4.1 
Cl-110* HCO3-22 AnGap-12
___ 06:41AM BLOOD ALT-642* AST-241* AlkPhos-97 TotBili-0.5
___ 06:41AM BLOOD Calcium-9.2 Phos-3.1 Mg-1.7

MICROBIOLOGY
==============
Blood cultures pending at discharge (___)

IMAGING
=========
None
 
Brief Hospital Course:
PATIENT SUMMARY STATEMENT FOR ADMISSION
=======================================
___ with history of HCV (unclear chronicity) who presented with 
non-intentional APAP overdose c/b acute liver injury in the 
setting of an odontogenic infection/pain, s/p NAC protocol with 
downtrending transaminitis. Started on antibiotics for tooth 
infection as pain from this was the cause of accidental 
Acetaminophen overdose.

ACUTE MEDICAL/SURGICAL ISSUES ADDRESSED
=======================================

#Non-intentional APAP overdose
#Acute liver injury
#Transaminitis
In setting of worsening tooth pain that was unresponsive to 3g 
Tylenol/day, patient began to take ___ of Tylenol per hour on 
___, total of ~40g/day. She presented to OSH on evening of ___ 
with abdominal pain, nausea, and vomiting and found to have a 
Tylenol level of 36 ___ at 2257). Her other labs were notable 
for ALT 1667, AST 1321, ALP 161, Tbili 0.89, INR 1.5. She 
received 3 doses of NAC and was transferred to ___. She is s/p 
21-hour NAC protocol with downtrending transaminitis (ALT 642, 
AST 241, AlkPhos 97 on discharge ___ and no evidence of 
worsening hepatic synthetic function. She was advised on safe 
practices for use of Tylenol with plan to avoid NSAID and 
Tylenol until her liver enzymes have normalized. 

#Odontogenic infection/pain
Likely pericoronitis that developed in the setting of 
insufficient primary dental care/prevention and poor dentition. 
Per OMFS, no evidence of dental abscess. Started on PO augmentin 
875mg q12h x 10-day course with start day of ___, as well as 
peridex oral rinse BID. Pain was controlled with tramadol 50mg 
q6h:PRN and hepatically-metabolized medications were avoided.

#Morbilliform facial rash
Patient first noticed rash at OSH, prior to administration of 
any medications. Suspect this is most likely a drug eruption 
rash secondary to APAP and/or unknown ingested agent(s). No 
mucosal involvement to suggest SJS/TEN or eosinophilia c/f 
DRESS. Improving by ___. Favor continued monitoring to 
resolution.

#Tobacco use disorder
Prescribed nicotine patch.

CHRONIC ISSUES PERTINENT TO ADMISSION
=====================================
#Anion gap metabolic acidosis.
Resolved. ___ have been secondary to APAP toxicity and/or 
unknown ingested agent(s).

#Hepatitis C infection
Unclear chronicity; patient reports she has not been treated in 
the past and does not know whether the infection is active. HCV 
viral load sent and pending at time of discharge. HBV immune. 
HAV non-immune, requires vaccination.

>30 minutes spent on patient care and coordination on day of 
discharge. 

TRANSITIONAL ISSUES
===================
- Follow up check of LFTs and INR with PCP to ensure resolution
- Monitor morbilliform facial rash for resolution.
- Consider initiation of treatment for HCV
- Needs HAV vaccination
- Follow up HCV viral load, pending at discharge
- Follow up with dentist for dental work
- Avoid acetaminophen and ibuprofen and NSAIDS for ___ weeks 
post-discharge, also pending PCP ___.
- PO augmentin 875 mg Q12H x 7 day course, first dose ___, last 
dose ___
- OMFS can perform extraction of teeth indicated by her dentist
in outpatient clinic. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 1 PUFF IH Q6H:PRN SOB 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO/NG Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*11 Tablet Refills:*0 
2.  Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
RX *chlorhexidine gluconate 0.12 % 15 ml twice a day Refills:*0 
3.  Nicotine Patch 7 mg/day TD DAILY 
RX *nicotine 7 mg/24 hour apply patch as directed daily Disp 
#*14 Patch Refills:*0 
4.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
RX *tramadol 50 mg 1 tablet(s) by mouth daily PRN pain Disp #*7 
Tablet Refills:*0 
5.  Albuterol Inhaler 1 PUFF IH Q6H:PRN SOB  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute liver injury
Acetaminophen overdose 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear,  
 
It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted for Tylenol (acetaminophen) overdose.
 
What was done for me while I was in the hospital?  
- You were given a medication called NAC (N-acetylcysteine) to 
protect your liver from the extra Tylenol in your body.
- Your liver function was carefully monitored for improvement, 
as the liver is the organ that is most damaged by Tylenol 
overdose.
- Your teeth were evaluated by our oral and maxillofacial 
surgeons, and they determined that you did not have a tooth 
abscess.
- You were started on a course of antibiotics for your tooth 
infection.
- Your facial rash was monitored and noted to be most likely 
related to drug reaction, and it appeared to be resolving on its 
own.
 

What should I do when I leave the hospital?  
- Please attend all of your follow up healthcare appointments.
- Please continue to take all medications as instructed.
- Please avoid taking Tylenol or any medication containing 
acetaminophen (the generic name for ___, until your primary 
care physician decides its okay ( at least ___ weeks from now).
- Avoid taking ibuprofen or Motrin for your pain for now.
- Always read the label on the box for any drug or medication 
you are taking, and follow the instructions on the label. When 
in doubt about how much of a medication to take, ask a 
pharmacist at your local ___, Walgreens, or other pharmacy.

Sincerely,  
Your ___ Care Team  

 
Followup Instructions:
___